US08198311B2
To a stirred solution of 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropanal (419 mg, 1.12 mmol) in ClCH2CH2Cl (20 mL) was added 1,3,4-thiadiazol-2-amine (137 mg, 1.35 mmol) and titanium tetraisopropoxide (0.35 mL, 1.2 mmol) at RT under nitrogen. The reaction mixture was heated at 85° C. for 1 hr then sodium triacetoxyborohydride (318 mg, 1.5 mmol) was added and the reaction was heated at 85° C. for 4 hr. The reaction mixture was poured into a sat. sodium bicarbonate solution (100 mL), extracted with CH2Cl2 (100 mL), dried (Na2SO4) and concentrated. The final product was purified using HPLC to give 95 mg (19% yield) of N-(3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropyl)-1,3,4-thiadiazol-2-amine which showed consistent 1H-NMR spectra. MS found: (M+H)+=458. NMR (CDCl3) δ 11.3 (bs, 1H); 8.12 (s, 1H); 8.03 (s, 1H); 7.82 (s, 1H); 7.52-7.55 (m, 2H); 7.48 (s, 1H); 7.39-7.41 (d, 2H); 7.11-7.23 (m, 5H); 4.16 (s, 1H), 3.09-3.18 (q, 2H); 1.18 (s, 6H).

reactant | 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropanal | 1.12 mmol, 419 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C=O)(C)C)C1=CC=CC=C1 | C24H21FN2O
reactant | 1,3,4-thiadiazol-2-amine | 1.35 mmol, 137 mg | S1C(=NN=C1)N | C2H3N3S
reactant | sodium triacetoxyborohydride | 1.5 mmol, 318 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | ClCH2CH2Cl | 20 mL | C(CCl)Cl | C2H4Cl2
catalyst | titanium tetraisopropoxide | 1.2 mmol, 0.35 mL | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | N-(3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropyl)-1,3,4-thiadiazol-2-amine | 95 mg, 19% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(CNC=1SC=NN1)(C)C)C1=CC=CC=C1 | C26H24FN5S
